US08859580B2
3-Benzyl-2,3,4,5,6,7-hexahydro-2,6-methano-1H-azocino[5,4-b]indole
A solution of 2-benzyl-2-aza-bicyclo[3.3.1]nonan-6-one in acetic acid (0.24 g) is added to a solution of PhNHNH2*HCl (173 mg) in acetic acid (4 mL) heated at reflux temperature. After stirring at this temperature for 2 h, the solution is cooled to room temperature and aqueous K2CO3 solution is added. The resulting mixture is extracted with ethyl acetate, the combined organic extracts are dried (Na2SO4), and the solvent is removed. The residue is purified by HPLC on reversed phase (MeCN/water).

reactant | 2-benzyl-2-aza-bicyclo[3.3.1]nonan-6-one | C(C1=CC=CC=C1)N1C2CCC(C(CC1)C2)=O | C15H19NO
reactant | PhNHNH2 | 173 mg | C1(=CC=CC=C1)NN | C6H8N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetic acid | 0.24 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 3-Benzyl-2,3,4,5,6,7-hexahydro-2,6-methano-1H-azocino[5,4-b]indole | C(C1=CC=CC=C1)N1C2CC3=C(NC=4C=CC=CC34)C(CC1)C2 | C21H22N2
